US07868177B2
N-(2-(dimethylamino)ethyl)-2-nitrobenzenamine (2.0 g, 14 mmol) and 10% palladium on carbon, wet, 50% water (3.0 g) were combined under nitrogen. 30 mL MeOH was added via syringe, and the atmosphere was replaced with hydrogen from a balloon. The reaction was stirred rapidly for 20 h, at which point the reaction was flushed with nitrogen, and filtered through a pad of Celite®, and concentrated in vacuo to give N1-(2-(dimethylamino)ethyl)benzene-1,2-diamine as a red-brown solid. This material was used without further purification. MS m/z=180 [M+H]+. Calc'd for C10H17N3: 179.3.

reactant | N-(2-(dimethylamino)ethyl)-2-nitrobenzenamine | 14 mmol, 2.0 g | CN(CCNC1=C(C=CC=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | water | 3.0 g | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | N1-(2-(dimethylamino)ethyl)benzene-1,2-diamine | CN(CCNC=1C(=CC=CC1)N)C | C10H17N3
